US07129235B2
methyl 4-hydroxy-4-piperidinecarboxylate
Methyl 1-benzyl-4-hydroxy-4-piperidinecarboxylate in methanol was treated with Pd(OH)2 (20% on carbon, 500 mg) under a hydrogen atmosphere. The mixture was allowed to stir at room temperature for 12 hours, filtered, and the filtrate was concentrated under reduced pressure.

reactant | Methyl 1-benzyl-4-hydroxy-4-piperidinecarboxylate | C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)OC)O | C14H19NO3
solvent | methanol | CO | CH4O
catalyst | Pd(OH)2 | 500 mg | [OH-].[OH-].[Pd+2]
product | methyl 4-hydroxy-4-piperidinecarboxylate | OC1(CCNCC1)C(=O)OC | C7H13NO3
